2166-04-10 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received a total 3 units pRBCs and 2 units FFP, HCT went from 20.7 to
   23.6, so getting another 2 units on morning of [**4-10**]
   - GI following, plan for endoscopy on [**4-10**]
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-4-9**] 08:08 PM
   Other medications:
   Changes to medical and family history:      None
   Review of systems is unchanged from admission.
   Flowsheet Data as of  [**2166-4-10**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 71 (70 - 89) bpm
   BP: 100/51(63) {95/41(54) - 121/86(92)} mmHg
   RR: 19 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
           Total In:
                                                                    929 mL
                                                                    554 mL
   PO:
           TF:
   IVF:
                                                                     60 mL
                                                                    100 mL
   Blood products:
                                                                    869 mL
                                                                    454 mL
   Total out:
                                                                  1,385 mL
                                                                    650 mL
   Urine:
                                                                  1,385 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -456 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: frail-appearing, thin elderly male, no respiratory
   distress.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, mildly dry MM
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Normal S1/S2
   Peripheral Vascular: Right and left radial pulses 2+, bilateral DP
   pulse diminished
   Respiratory / Chest: Clear; no crackles, no wheezes, or rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, Not
   Tender: , multiple old surgical scars
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Oriented to person,
   place, date
   Labs / Radiology
   271 K/uL
   8.3 g/dL
   92 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   125 mg/dL
   109 mEq/L
   142 mEq/L
   23.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2166-4-10**]  03:15 AM
   WBC
   6.3
   Hct
   23.6
   Plt
   271
   Cr
   2.2
   Glucose
   92
   Other labs: PT / PTT / INR:19.5/38.3/1.8, Ca++:9.0 mg/dL, Mg++:2.6
   mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   This is a 84M with history of CAD, CHF, Afib on coumadin, presents with
   fatigue, hematocrit drop, and guaiac positive black stools.
   .
   # Hematocrit drop: Likely secondary to upper GI bleed in the setting of
   mildly supratherapeutic INR. Pt has noted dark brown-black stools at
   home for the past few weeks, likely melena. DDx would include peptic
   ulcer disease, esophagitis/gastritis, AVM. Small amounts of BRB on
   toilet paper likely secondary to known hemorrhoids, however cannot rule
   out a slow lower GI source. His complaint of fatigue is likely
   secondary to anemia. Has received 1u RBC in the ED and 10mg IV vitamin
   K. Was reportedly hypotensive at his PCP's office on the day of
   admission but remained normotensive in the MICU after receiving 1u RBC.
   He is v-paced. He received an additional 2 units pRBC
s after arriving
   on the floor without an appropriate increase in HCT.
   - will transfuse additional 2u RBC (for 5 units total)
   - check post-transfusion hct
   - maintain 2 PIVs
   - GI aware with plan for likely EGD today
   - will keep NPO for now
   - IV protonix
   .
   # Acute on CKD: Cr up to 2.5 from [**Year (4 digits) 294**] of 1.8. Etiology is likely
   pre-renal in the setting of GI bleed. Getting intravascular repletion
   with RBC transfusion; improved today to 2.2
   - cont to monitor BUN/Cr
   - will hold diuretics for now
   .
   # CAD: History of multiple stents and CABG but no chest pain currently.
   - will hold aspirin in the setting of GI bleed
   - will hold lisinopril, nadolol given recent hypotension
   .
   # CHF: Last Echo in our system is from [**2163**] with EF 20%. Currently
   appears euvolemic.
   - will hold lisinopril, nadolol, spironolactone, and lasix in the
   setting of GI bleed and borderline BP
   .
   # Hypotension with h/o HTN: Pt is currently borderline hypotensive
   however per the ED discussion with his PCP, [**Name10 (NameIs) 294**] SBP is ~90s to low
   100s.
   - will hold lisinopril, nadolol, and lasix for now
   .
   # DMII: Diet-controlled at home.
   - will cover with insulin sliding scale in house
   .
   # Afib: INR supratherapeutic on admission. Holding coumadin and
   reversing INR as above in the setting of GI bleed.
   .
   # Hyperlipidemia: Cont zetia.
   .
   # Ppx: pneumoboots, PPI.
   # FEN: NPO, no IVF for now, replete lytes prn
   # Access: PIV x 2
   # Code: full code, confirmed with patient
   # Disp: ICU for now
   # Contact: Wife [**Name (NI) 8791**] [**Telephone/Fax (1) 8792**] (home)
   ICU Care
   Nutrition:
   NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-4-9**] 05:10 PM
   20 Gauge - [**2166-4-9**] 05:55 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: pending stabilization of HCT

2166-04-10 10:03:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with systolic HF EF 20%, AF on coumadin, presented with
   melena, anemia.  Got 3 units and Hct went to 23.7 from 20.  Got 2 [**Location 8801**].  Got and additional 2 units.  Awaiting post hct.
   24 Hour Events:
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-4-10**] 08:00 AM
   Other medications:
   SSI
   zetia
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-4-10**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 71 (70 - 89) bpm
   BP: 101/50(63) {95/41(54) - 121/86(92)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Height: 70 Inch
           Total In:
                                                                    929 mL
                                                                    990 mL
   PO:
           TF:
   IVF:
                                                                     60 mL
                                                                    160 mL
   Blood products:
                                                                    869 mL
                                                                    830 mL
   Total out:
                                                                  1,385 mL
                                                                  1,150 mL
   Urine:
                                                                  1,385 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -456 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   271 K/uL
   92 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   125 mg/dL
   109 mEq/L
   142 mEq/L
   23.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2166-4-10**]  03:15 AM
   WBC
   6.3
   Hct
   23.6
   Plt
   271
   Cr
   2.2
   Glucose
   92
   Other labs: PT / PTT / INR:19.5/38.3/1.8, Ca++:9.0 mg/dL, Mg++:2.6
   mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Hct still
   low, likely reflects fact that he was also hypovolemic on admit.
   F/u post transfusion Hct.  To get EGD this morning.  Most likely upper
   source.
   Holding ASA and coumadin.
   chronic systolic HF.  holding lasix and aldactone for now.
   DM:  SSI
   AFIb:  HR well controlled, getting paced.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-4-9**] 05:10 PM
   20 Gauge - [**2166-4-9**] 05:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2166-04-11 07:28:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - EGD by GI showed gastritis, no clear source of bleeding
   - Oral prep for colonoscopy on [**4-11**]
   ROS:
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2166-4-10**] 01:10 PM
   Fentanyl - [**2166-4-10**] 01:10 PM
   Pantoprazole (Protonix) - [**2166-4-10**] 09:00 PM
   Other medications:
   Flowsheet Data as of  [**2166-4-11**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 30 (30 - 75) bpm
   BP: 101/36(53) {97/36(53) - 135/74(88)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 99% on room air
   Heart rhythm: AV Paced
   Height: 70 Inch
                  Total In:
                                                                  1,947 mL
                                                                    400 mL
   PO:
                                                                    700 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    170 mL
   Blood products:
                                                                  1,077 mL
   Total out:
                                                                  2,860 mL
                                                                    640 mL
   Urine:
                                                                  2,460 mL
                                                                    240 mL
   Stool:
                                                                    400 mL
                                                                    400 mL
   Balance:
                                                                   -913 mL
                                                                   -240 mL
   Physical Examination
   General Appearance: frail-appearing, thin elderly male, no respiratory
   distress.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, mildly dry MM
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Normal S1/S2
   Peripheral Vascular: Right and left radial pulses 2+, bilateral DP
   pulse diminished
   Respiratory / Chest: Clear; no crackles, no wheezes, or rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, Not
   Tender: , multiple old surgical scars
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Oriented to person,
   place, date
   Labs / Radiology
   288 K/uL
   11.1 g/dL
   91 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   93 mg/dL
   104 mEq/L
   140 mEq/L
   32.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2166-4-10**]  03:15 AM
                             [**2166-4-10**]  12:30 PM
                             [**2166-4-10**]  03:59 PM
                             [**2166-4-10**]  04:29 PM
                             [**2166-4-10**]  10:32 PM
                             [**2166-4-11**]  04:00 AM
   WBC
   6.3
   8.5
   Hct
   23.6
   29.1
   28.8
   29.5
   32.3
   Plt
   271
   288
   Cr
   2.2
   2.0
   2.0
   Glucose
   92
   99
   91
   Other labs: PT / PTT / INR:16.7/36.9/1.5, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan:
   84 yo M with history of CAD, CHF, Afib on coumadin, presents with
   fatigue, hematocrit drop, and guaiac positive black stools.
   # Hematocrit drop: Likely secondary to upper GI bleed in the setting of
   mildly supratherapeutic INR. Pt has noted dark brown-black stools at
   home for the past few weeks, likely melena. DDx would include peptic
   ulcer disease, esophagitis/gastritis, AVM. Small amounts of BRB on
   toilet paper likely secondary to known hemorrhoids, however cannot rule
   out a slow lower GI source. His complaint of fatigue is likely
   secondary to anemia. Has received 1u RBC in the ED and 10mg IV vitamin
   K. Was reportedly hypotensive at his PCP's office on the day of
   admission but remained normotensive in the MICU after receiving 1u RBC.
   He is v-paced. He received an additional 2 units pRBC
s after arriving
   on the floor without an appropriate increase in HCT.
   - will transfuse additional 2u RBC (for 5 units total)
   - check post-transfusion hct
   - maintain 2 PIVs
   - GI aware with plan for likely EGD today
   - will keep NPO for now
   - IV protonix
   # Acute on CKD: Cr up to 2.5 from [**Year (4 digits) 294**] of 1.8. Etiology is likely
   pre-renal in the setting of GI bleed. Getting intravascular repletion
   with RBC transfusion; improved today to 2.2
   - cont to monitor BUN/Cr
   - will hold diuretics for now
   # CAD: History of multiple stents and CABG but no chest pain currently.
   - will hold aspirin in the setting of GI bleed
   - will hold lisinopril, nadolol given recent hypotension
   # CHF: Last Echo in our system is from [**2163**] with EF 20%. Currently
   appears euvolemic.
   - will hold lisinopril, nadolol, spironolactone, and lasix in the
   setting of GI bleed and borderline BP
   # Hypotension with h/o HTN: Pt is currently borderline hypotensive
   however per the ED discussion with his PCP, [**Name10 (NameIs) 294**] SBP is ~90s to low
   100s.
   - will hold lisinopril, nadolol, and lasix for now
   # DMII: Diet-controlled at home.
   - will cover with insulin sliding scale in house
   # Afib: INR supratherapeutic on admission. Holding coumadin and
   reversing INR as above in the setting of GI bleed.
   # Hyperlipidemia:
   - Continue ezetimibe
   ICU Care
   Nutrition: NPO in anticipation of colonoscopy
   Glycemic Control:  Humalog insulin sliding scale
   Lines:
   18 Gauge - [**2166-4-9**] 05:10 PM
   20 Gauge - [**2166-4-9**] 05:55 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Communication:  Wife [**Name (NI) 8791**] [**Telephone/Fax (1) 8792**] (home)
   Code status: FULL
   Disposition: Call-out to floor following colonoscopy

2166-04-11 10:35:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with CHF, p/w slow GIB.  EGD negative yesterday.  To have
   colonoscopy dotay.
   24 Hour Events:
 ENDOSCOPY - At [**2166-4-10**] 01:00 PM
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2166-4-10**] 01:10 PM
   Fentanyl - [**2166-4-10**] 01:10 PM
   Pantoprazole (Protonix) - [**2166-4-11**] 08:00 AM
   Other medications:
   SSI zetia
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain, No(t) Diarrhea
   Flowsheet Data as of  [**2166-4-11**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 75) bpm
   BP: 114/54(69) {97/36(53) - 135/74(88)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Height: 70 Inch
             Total In:
                                                                  1,947 mL
                                                                    410 mL
   PO:
                                                                    700 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    170 mL
                                                                     10 mL
   Blood products:
                                                                  1,077 mL
   Total out:
                                                                  2,860 mL
                                                                    640 mL
   Urine:
                                                                  2,460 mL
                                                                    240 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                   -913 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   11.1 g/dL
   288 K/uL
   91 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   93 mg/dL
   104 mEq/L
   140 mEq/L
   32.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2166-4-10**]  03:15 AM
                             [**2166-4-10**]  12:30 PM
                             [**2166-4-10**]  03:59 PM
                             [**2166-4-10**]  04:29 PM
                             [**2166-4-10**]  10:32 PM
                             [**2166-4-11**]  04:00 AM
   WBC
   6.3
   8.5
   Hct
   23.6
   29.1
   28.8
   29.5
   32.3
   Plt
   271
   288
   Cr
   2.2
   2.0
   2.0
   Glucose
   92
   99
   91
   Other labs: PT / PTT / INR:16.7/36.9/1.5, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  TO get
   colonoscopy today to explore source of bleed.
   Chronic renal failure:  is close to baseline creatinine
   CAD:  asa held, can restart asa and bp meds after colonoscopy.
   CHF:  lungs clear
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-4-9**] 05:10 PM
   20 Gauge - [**2166-4-9**] 05:55 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor after EGD
   Total time spent: 35 minutes